US05397781
Preparation of ethyl 2-(N-phenyl-N-propylamino)acetate
To a solution of N-propylaniline (60 g) and ethyl bromoacetate (83.6 ml) in dioxane (60 ml), diazabicycloundecene (DBU;113 ml) was added dropwise under ice-cooling. After stirring for 1 hour at room temperature, the reaction mixture was diluted with water and extracted three times with ethyl acetate. The combined organic layer was washed with successive, 1N hydrochloric acid, water and saturated sodium chloride in order. After drying over anhydrous sodium sulfate, the solvent was evaporated under reduced pressure to give 87.9 g (90%) of the objective compound.

reactant | N-propylaniline | 60 g | C(CC)NC1=CC=CC=C1 | C9H13N
reactant | ethyl bromoacetate | 83.6 ml | BrCC(=O)OCC | C4H7BrO2
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
solvent | diazabicycloundecene | 113 ml | C1(=NNCCCCCCCC1)C1=CCCCCCCCCC1 | C20H36N2
solvent | water | O | H2O
product | ethyl 2-(N-phenyl-N-propylamino)acetate | 87.9 g, 90% | C1(=CC=CC=C1)N(CCC)CC(=O)OCC | C13H19NO2
